US04014679
3-chlorocrotonanilide [formed from aniline and β-chloro-crotonyl chloride] was reacted with phenol in a basic media to obtain 3-phenoxy-crotonanilide melting at 145° C.

reactant | 3-chlorocrotonanilide | Cl\C(=C/C(=O)NC1=CC=CC=C1)\C | C10H10ClNO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 3-phenoxy-crotonanilide | O(C1=CC=CC=C1)\C(=C/C(=O)NC1=CC=CC=C1)\C | C16H15NO2
